US08048909B2
Ethyl 5-cyclohexyl-1H-pyrrole-3-carboxylate
Under an argon atmosphere, to a solution of ethyl 1H-pyrrole-3-carboxylate (2.09 g) and aluminum(III) chloride (4.0 g) in carbon disulfide (30 mL) was added bromocyclohexane (1.84 mL) under ice-cooling with stirring, and the mixture was stirred at room temperature for 30 min. The mixture was heated to 50° C., and stirred for 2 hr. The reaction product was cooled to room temperature, poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→8:2), and recrystallized from hexane to give the title compound as a colorless solid (yield 530 mg, 16%).

reactant | ethyl 1H-pyrrole-3-carboxylate | 2.09 g | N1C=C(C=C1)C(=O)OCC | C7H9NO2
reactant | aluminum(III) chloride | 4.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromocyclohexane | 1.84 mL | BrC1CCCCC1 | C6H11Br
solvent | carbon disulfide | 30 mL | C(=S)=S | CS2
product | Ethyl 5-cyclohexyl-1H-pyrrole-3-carboxylate | yield 530 mg, 16% | C1(CCCCC1)C1=CC(=CN1)C(=O)OCC | C13H19NO2
